US05700809
1-(4-Hydroxy-4-naphthalen-2-yl-piperidin-1-yl)ethanone (3.40 g, 13 mmol) was dissolved in hydrochloric acid (50 ml, 6M) and the solution refluxed for 12 hours. The resultant mixture was cooled in ice, basified with sodium hydroxide solution (32 ml, 10M) and extracted with dichloromethane (2×100 ml). The extracts were combined, dried (MgSO4) and concentrated to give 4-naphthalen-2-yl-1,2,3,6-tetrahydropyridine (2.12 g, 78% ) as a tan solid; δH (CDCl3) 2.60 (2H, m, tetrahydropyridinyl CH2), 3.20 (2H, t, J 5.6 Hz, tetrahydropyridinyl CH2), 3.60 (2H, m, tetrahydropyridinyl CH2), 6.30 (1H, m, CH=CR), 7.45 (2H, m, ArH), 7.60 (1H, dd, J 8.4, 1.4 Hz, ArH), and 7.80 (4H, m, ArH).

reactant | 1-(4-Hydroxy-4-naphthalen-2-yl-piperidin-1-yl)ethanone | 13 mmol, 3.40 g | OC1(CCN(CC1)C(C)=O)C1=CC2=CC=CC=C2C=C1 | C17H19NO2
reactant | sodium hydroxide | 10M, 32 ml | [OH-].[Na+]
solvent | hydrochloric acid | 6M, 50 ml | Cl | ClH
product | 4-naphthalen-2-yl-1,2,3,6-tetrahydropyridine | 2.12 g, 78% | C1=C(C=CC2=CC=CC=C12)C=1CCNCC1 | C15H15N
